US07365065B2
A solution of 1-(3-cyanobenzoyl)-1,2,3,4-tetrahydroquinoline (7.1 g, 27 mmol) and hydrochloric acid (2.2 ml) in methanol (100 ml) was hydrogenated at atmospheric pressure for 8 h over a catalytic amount of 10% palladium on carbon. The mixture was filtered through Celite® and reduced to yield 1-(3-aminomethylbenzoyl)-1,2,3,4-tetrahydroquinoline hydrochloride (8.1 g, 99%) as a white solid.

reactant | 1-(3-cyanobenzoyl)-1,2,3,4-tetrahydroquinoline | 27 mmol, 7.1 g | C(#N)C=1C=C(C(=O)N2CCCC3=CC=CC=C23)C=CC1 | C17H14N2O
reactant | hydrochloric acid | 2.2 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 1-(3-aminomethylbenzoyl)-1,2,3,4-tetrahydroquinoline hydrochloride | 8.1 g, 99% | Cl.NCC=1C=C(C(=O)N2CCCC3=CC=CC=C23)C=CC1 | InChI=1S/C17H18N2O.ClH/c18-12-13-5-3-7-15(11-13)17(20)19-10-4-8-14-6-1-2-9-16(14)19;/h1-3,5-7,9,11H,4,8,10,12,18H2;1H
